US08835409B2
Preparation of (E)-methyl 4-amino-6-chloro-5-fluoro-3-(2-(trimethylsilyl)vinyl)picolinate (Compound 7)
Methyl 4-amino-6-chloro-5-fluoro-3-iodopicolinate (0.5 g, 1.513 mmol), (E)-trimethyl(2-(tributylstannyl)vinyl)silane (0.589 g, 1.513 mmol), and bis(triphenylphosphine)palladium(II) chloride (0.106 g, 0.151 mmol) were combined in dichloroethane (3 mL) and stirred at 70° C. overnight. The reaction mixture was concentrated onto celite then purified by flash chromatography (SiO2, hexanes/EtOAc gradient) to afford the title compound (285 mg, 0.941 mmol, 62.2% yield) as an orange solid: mp 103-105° C.; 1H NMR (400 MHz, CDCl3) δ 6.99 (d, J=19.8 Hz, 1H), 6.21 (d, J=19.9 Hz, 1H), 4.72 (s, 2H), 3.89 (s, 3H), 0.19 (s, 9H); 19F NMR (376 MHz, CDCl3) δ −139.10; ESIMS m/z 301 [(M−H)−].

reactant | Methyl 4-amino-6-chloro-5-fluoro-3-iodopicolinate | 1.513 mmol, 0.5 g | NC1=C(C(=NC(=C1F)Cl)C(=O)OC)I | C7H5ClFIN2O2
reactant | (E)-trimethyl(2-(tributylstannyl)vinyl)silane | 1.513 mmol, 0.589 g | C[Si](\C=C\[Sn](CCCC)(CCCC)CCCC)(C)C
solvent | dichloroethane | 3 mL | ClC(C)Cl | C2H4Cl2
catalyst | bis(triphenylphosphine)palladium(II) chloride | 0.151 mmol, 0.106 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | (E)-methyl 4-amino-6-chloro-5-fluoro-3-(2-(trimethylsilyl)vinyl)picolinate | 0.941 mmol, 285 mg, 62.2% yield | NC1=C(C(=NC(=C1F)Cl)C(=O)OC)\C=C\[Si](C)(C)C | C12H16ClFN2O2Si
